US05356862
N-(1,1-Dimethylethyl)-1H-pyrrole-3-sulfonamide
A solution of N-(1,1-dimethylethyl)-1-[tris(1-methylethyl)sily]-1H-pyrrole-3-sulfonamide (1.7 g, 4.7 mmol) in 25 mL THF was treated with 5.2 mL of 1M tetrabutylammonium fluoride/THF solution, followed by 0.3 mL of acetic acid. After stirring 30 minutes at room temperature, the reaction mixture was filtered through silica with THF rinse, and the filtrate stripped. The solid residue was triturated with hexanes to afford 0.77 g of tan solids, m.p. 145°-147° C. dec.

reactant | N-(1,1-dimethylethyl)-1-[tris(1-methylethyl)sily]-1H-pyrrole-3-sulfonamide | 4.7 mmol, 1.7 g | CC(C)(C)NS(=O)(=O)C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C17H34N2O2SSi
reactant | tetrabutylammonium fluoride THF | 1M, 5.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | acetic acid | 0.3 mL | C(C)(=O)O | C2H4O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-(1,1-Dimethylethyl)-1H-pyrrole-3-sulfonamide | 0.77 g | CC(C)(C)NS(=O)(=O)C1=CNC=C1 | C8H14N2O2S
